US05254689
A mixture of 4-(4-nitrophenoxy)piperidine hydrochloride (1.15 g, 5.80 mmol), 1-bromo-2-(4-nitrophenoxy)ethane (1.43 g, 5.80 mmol), K2CO3 (1.60 g, 11.80 mmol), and DMF (15 mL) was heated at 90° C. for 6 hours. The mixture was cooled, diluted with CH2Cl2, and washed with water. The organic phase was dried (MgSO4) and concentrated to give 1.70 g (80%) of N-2-(4-nitrophenoxy)ethyl-4-(4-nitrophenoxy)piperidine as a yellow solid. 1H NMR (DMSO-d6): δ 8.10 (m, 4H), 7.05 (d, 4H), 4.60 (m, 1H), 4.15 (t, 2H), 2.78 (m, 4H), 2.40 (t, 2H), 1.95 (m, 2H), 1.65 (m, 2H).

reactant | 4-(4-nitrophenoxy)piperidine hydrochloride | 5.80 mmol, 1.15 g | Cl.[N+](=O)([O-])C1=CC=C(OC2CCNCC2)C=C1
reactant | 1-bromo-2-(4-nitrophenoxy)ethane | 5.80 mmol, 1.43 g | BrCCOC1=CC=C(C=C1)[N+](=O)[O-] | C8H8BrNO3
reactant | K2CO3 | 11.80 mmol, 1.60 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-2-(4-nitrophenoxy)ethyl-4-(4-nitrophenoxy)piperidine | 1.70 g, 80% | [N+](=O)([O-])C1=CC=C(OCCN2CCC(CC2)OC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C19H21N3O6
